US08669234B2
(S)-benzyl 2-(tert-butoxycarbonylamino)-4-hydroxybutanoate
N-t-Boc-L-homoserine (5.14 g, 23.45 mmol) and potassium bicarbonate (2.46 g, 24.6 mmol) was weighed out in a round bottom flask and to it was added anhydrous N,N-dimethylformamide (100 mL) and benzyl bromide (4.2 g, 24.6 mmol). The mixture was stirred at room temperature for 18 hours. The crude mixture was then diluted with ethyl acetate and washed, respectively, with brine, saturated NaHCO3 and brine, and dried over Na2SO4. The organic layer was then concentrated down on rotovap and purified on normal phase column chromatography. Yield=7.27 g (100%).

reactant | N-t-Boc-L-homoserine | 23.45 mmol, 5.14 g | CC(C)(C)OC(=O)N[C@@H](CCO)C(=O)O | C9H17NO5
reactant | potassium bicarbonate | 24.6 mmol, 2.46 g | C([O-])(O)=O.[K+]
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
reactant | benzyl bromide | 24.6 mmol, 4.2 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-benzyl 2-(tert-butoxycarbonylamino)-4-hydroxybutanoate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC1=CC=CC=C1)CCO | C16H23NO5
